US04283341
1,1,1-Tribromo-4-methyl-3-penten-2-ol (6.72 g, 0.02 mole) and anhydrous sodium acetate (0.008 g) were melted together at 90°. The temperature of the mixture was then reduced to 80°, and diketene (about 2.6 ml, 0.022 mole) was added dropwise over a 10 minute period. The resulting mixture was heated at 80° for three additional hours. After cooling, the mixture was diluted with ether, and the ethereal solution was washed with 1N aqueous hydrochloric acid and then ten times with saturated aqueous sodium bicarbonate. The washed mixture was treated with activated charcoal and dried over magnesium sulfate. Evaporation of the ether afforded 3-methyl-1-tribromomethyl-2-butenyl acetoacetate (8.34 g, 99% yield) as an oily residue.

reactant | 1,1,1-Tribromo-4-methyl-3-penten-2-ol | 0.02 mole, 6.72 g | BrC(C(C=C(C)C)O)(Br)Br | C6H9Br3O
reactant | diketene | 0.022 mole, about 2.6 ml | C=C1CC(=O)O1 | C4H4O2
solvent | ether | CCOCC | C4H10O
catalyst | sodium acetate | 0.008 g | C(C)(=O)[O-].[Na+]
product | 3-methyl-1-tribromomethyl-2-butenyl acetoacetate | 8.34 g, 99% yield | C(CC(=O)C)(=O)OC(C=C(C)C)C(Br)(Br)Br | C10H13Br3O3
